US08293923B2
4-(2-(5-(4-methoxypyridin-3-yl)-1H-indazol-3-ylamino)-5-((4-(2-(pyridin-4-yl)ethyl)piperazin-1-yl)methyl)-1H-benzo[d]imidazol-1-yl)cyclohexanol
In a 20 mL vial was added N-(1-(4-(tert-butyldimethylsilyloxy)cyclohexyl)-5-((4-(2-(pyridin-4-yl)ethyl)piperazin-1-yl)methyl)-1H-benzo[d]imidazol-2-yl)-5-(4-methoxypyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-3-amine (31 mg, 0.000034 mol) ethanol (1.20 mL) and 0.01M hydrogen chloride (300 uL). The reaction mixture was brought to reflux and maintained at reflux for 1 hour. The reaction mixture was concentrated to a brownish residue and purified by HPLC yielding 8.3 mg of the title compound as the bis TFA salt as a white solid.

reactant | N-(1-(4-(tert-butyldimethylsilyloxy)cyclohexyl)-5-((4-(2-(pyridin-4-yl)ethyl)piperazin-1-yl)methyl)-1H-benzo[d]imidazol-2-yl)-5-(4-methoxypyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-3-amine | 0.000034 mol, 1.20 mL, 31 mg | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)N1C(=NC2=C1C=CC(=C2)CN2CCN(CC2)CCC2=CC=NC=C2)NC2=NN(C1=CC=C(C=C21)C=2C=NC=CC2OC)COCC[Si](C)(C)C | C50H71N9O3Si2
solvent | hydrogen chloride | 0.01M, 300 uL | Cl | ClH
product | 4-(2-(5-(4-methoxypyridin-3-yl)-1H-indazol-3-ylamino)-5-((4-(2-(pyridin-4-yl)ethyl)piperazin-1-yl)methyl)-1H-benzo[d]imidazol-1-yl)cyclohexanol | 8.3 mg | COC1=C(C=NC=C1)C=1C=C2C(=NNC2=CC1)NC1=NC2=C(N1C1CCC(CC1)O)C=CC(=C2)CN2CCN(CC2)CCC2=CC=NC=C2 | C38H43N9O2
